US06191124B1
1-(6,7,8,9-Tetrahydro-5H-cyclohept[d]imidazo[2,1-b]thiazol-3-yl)-ethanone (Formula N-4, 1.8 g in THF (50 mL) was condensed with 3,5-difluorobenzaldehyde according to non-critical variations in PREPARATION 15 to yield pure 3-(3,5-Difluorophenyl)-1-(6,7,8,9-tetrahydro-5H-cyclohept[d]imidazo[2,1-b]thiazol-3-yl)-2-propene-1-one (Formula N-5, X=3,5-difluoro), 0.51 g, m.p. 207-209°.

reactant | 1-(6,7,8,9-Tetrahydro-5H-cyclohept[d]imidazo[2,1-b]thiazol-3-yl)-ethanone | N=1C=C(N2C1SC1=C2CCCCC1)C(C)=O | C12H14N2OS
reactant | 3,5-difluorobenzaldehyde | FC=1C=C(C=O)C=C(C1)F | C7H4F2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 3-(3,5-Difluorophenyl)-1-(6,7,8,9-tetrahydro-5H-cyclohept[d]imidazo[2,1-b]thiazol-3-yl)-2-propene-1-one | FC=1C=C(C=C(C1)F)C=CC(=O)C1=CN=C2SC3=C(N21)CCCCC3 | C19H16F2N2OS
